US06281227B1
E. [1-(1-Benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-2-oxopyrrolid-3-(S)-yl]-carbamic acid tert-butyl ester
Sodium hydride (0.081 g, 2.02 mmol, 60% mineral oil dispersion) is added to a solution of [2-oxopyrrolidin-3-(S)-yl]-carbamic acid tert-butyl ester (0.404 g, 2.02 mmol) in DMF (5 mL) at 0° C. The mixture is stirred for 10 minutes, then cannulated dropwise to a solution of 1-benzenesulfonyl-2-bromomethyl-4-chloro-1H-pyrrolo[3,2-c]pyridine (0.74 g, 1.92 mmol) in DMF (10 mL) at 0° C. The resulting yellow solution is stirred for 1 hour at 0° C. then quenched with saturated ammonium chloride solution and diluted with EtOAc. The organic layer is washed with water and brine, then dried over MgSO4, filtered and concentrated. The solid product (0.94 g, 1.86 mmol) is used in the subsequent step without further purification.

reactant | Sodium hydride | 2.02 mmol, 0.081 g | [H-].[Na+]
reactant | [2-oxopyrrolidin-3-(S)-yl]-carbamic acid tert-butyl ester | 2.02 mmol, 0.404 g | C(C)(C)(C)OC(N[C@@H]1C(NCC1)=O)=O | C9H16N2O3
reactant | 1-benzenesulfonyl-2-bromomethyl-4-chloro-1H-pyrrolo[3,2-c]pyridine | 1.92 mmol, 0.74 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C(=NC=CC21)Cl)CBr | C14H10BrClN2O2S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [1-(1-Benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-2-oxopyrrolid-3-(S)-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC1=CC=2C(=NC=CC2N1S(=O)(=O)C1=CC=CC=C1)Cl)=O)=O | C23H25ClN4O5S
